US08114872B2
(6-Fluoro-4-iodo-pyridin-3-yl)-acetonitrile
Combine trimethylsilyl cyanide (297 mg, 3.0 mmol) and tetrabutylammonium fluoride (785 mg, 3.0 mmol) in 20 mL of acetonitrile under nitrogen. Add 5-bromomethyl-2-fluoro-4-iodo-pyridine (0.63 g, 2.0 mmol) to the above solution. Stir the mixture for 2 h at RT. Dilute the mixture with chloroform/IPA (3/1). Wash the solution with water and subsequently with saturated aqueous sodium chloride. Dry it over sodium sulfate. Concentrate the solution in vacuo. Purify by column chromatography (5% methanol in DCM) to afford the title compound as a yellow, waxy solid (500 mg, 96%). MS (ES) m/z 263 [M+1]+.

reactant | trimethylsilyl cyanide | 3.0 mmol, 297 mg | C[Si](C)(C)C#N | C4H9NSi
reactant | tetrabutylammonium fluoride | 3.0 mmol, 785 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-bromomethyl-2-fluoro-4-iodo-pyridine | 2.0 mmol, 0.63 g | BrCC=1C(=CC(=NC1)F)I | C6H4BrFIN
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | chloroform isopropyl alcohol | C(Cl)(Cl)Cl.C(C)(C)O
product | (6-Fluoro-4-iodo-pyridin-3-yl)-acetonitrile | FC1=CC(=C(C=N1)CC#N)I | C7H4FIN2
